US05338739
3-[1-(4-Pyridinylmethyl)-2-pyrrolidinyl]phenyl methylcarbamate
To a stirred solution of 3-[1-(4-pyridinylmethyl)-2-pyrrolidinyl]phenol (0.60 g) in dry tetrahydrofuran (16 ml) was added milled potassium carbonate (0.36 g), followed by methyl isocyanate (0.15 ml), dropwise, at ambient temperature, under nitrogen, with stirring. The mixture was stirred for 17 hrs and filtered through a pad of celite. The filter cake was washed with ethyl acetate, and the filtrate was concentrated. The residue was purified by flash column chromatography (silica gel, ether). The appropriate fractions were collected and concentrated to afford 0.63 g (86%) of product. Trituration of the residue with petroleum ether gave the analytical sample, mp 92°-105° C.

reactant | 3-[1-(4-pyridinylmethyl)-2-pyrrolidinyl]phenol | 0.60 g | N1=CC=C(C=C1)CN1C(CCC1)C=1C=C(C=CC1)O | C16H18N2O
reactant | potassium carbonate | 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl isocyanate | 0.15 ml | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 3-[1-(4-Pyridinylmethyl)-2-pyrrolidinyl]phenyl methylcarbamate | 0.63 g, 86% | CNC(OC1=CC(=CC=C1)C1N(CCC1)CC1=CC=NC=C1)=O | C18H21N3O2
